US09303000B2
Synthesis of (Z)-3-(3-(3-(methylsulfonyl)-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid
In a 1-neck 25 mL round-bottomed flask, (Z)-isopropyl 3-(3-(3-(methylsulfonyl)-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylate (0.350 g, 1.0 eq.), was dissolved in THF (3.5 mL, 5 vol.), added water (3.5 mL, 3.5 Vol) and added LiOH (0.053 g, 1.5 eq.). Reaction mixture was stirred at RT for 2-3 hrs. The progress of the reaction was followed by TLC analysis on silica gel with 10% methanol: dichloromethane as mobile phase and visualization with UV, SM Rf=0.35 and Product Rf=0.15. Reaction mixture was quenched into the acidic ice-water slurry (30 mL) and extracted in the ethyl acetate (25 mL×3). Organic layer was washed with sodium bicarbonate solution (50 mL) followed by drying using anhydrous sodium sulphate. Organic layer was concentrated under reduced pressure to afford 270 mg of crude compound. The resulting crude compound off white was used for further stage, yield (83%); Mass: (ES+) 361.8 (M+1).

reactant | (Z)-isopropyl 3-(3-(3-(methylsulfonyl)-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylate | 0.350 g, 1.0 eq. | CS(=O)(=O)C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)OC(C)C | C16H16F3N3O4S
reactant | water | 3.5 mL | O | H2O
reactant | LiOH | 0.053 g, 1.5 eq. | [Li+].[OH-]
reactant | methanol | CO | CH4O
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (Z)-3-(3-(3-(methylsulfonyl)-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 270 mg | CS(=O)(=O)C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O | C13H10F3N3O4S
